US06548538B2
2-[[4-[[[2-[(2-Methyl4-methoxyphenyl)amino]-2-oxoethyl](2-furanylmethyl)amino]methyl]phenyl)thio]-2-methyl-propanoic acid
200 mg of tert-butyl 2-[[4-[[[2-[(2-methyl-4-methoxyphenyl)amino]-2-oxoethyl](2-furanyl-methyl)amino]methyl]phenyl]thio]-2-methyl-propanoate are dissolved in 5 ml of dichloromethane and reacted with I ml of trifluoroacetic acid. The mixture is stirred at room temperature for 20 h and then concentrated and purified chromatographically (dichloromethane/methanol 50+1). This gives 174 mg of the title compound as a solid foam.

reactant | tert-butyl 2-[[4-[[[2-[(2-methyl-4-methoxyphenyl)amino]-2-oxoethyl](2-furanyl-methyl)amino]methyl]phenyl]thio]-2-methyl-propanoate | 200 mg | CC1=C(C=CC(=C1)OC)NC(CN(CC=1OC=CC1)CC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C)=O | C30H38N2O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-[[4-[[[2-[(2-Methyl4-methoxyphenyl)amino]-2-oxoethyl](2-furanylmethyl)amino]methyl]phenyl)thio]-2-methyl-propanoic acid | CC1=C(C=CC(=C1)OC)NC(CN(CC=1OC=CC1)CC1=CC=C(C=C1)SC(C(=O)O)(C)C)=O | C26H30N2O5S
